US05028730
2-Cyano-3,3-bis(4-fluorophenyl)-2-propenoic acid
To a solution of ethyl 2-cyano-3,3-bis(4-fluorophenyl)-2-propenoate (5.0 g, 16 mmol) in tetrahydrofuran (30 mL) at 0° C. was added a solution of 1 M lithium hydroxide in water (30 ML). Saponification reaction was allowed to proceed at 0° C. for a total of three hours forming a clear homogeneous solution. Crude reaction mixture was made acidic by adding 15 mL of 3 M HCl solution in water and the organic material was extracted twice into diethyl ether. Organic layers were combined, dried over MgSO4 and concentrated under reduced pressure to give a pale solid. Recrystallization from ethyl acetate-hexanes mixture (1:9 v/v) yielded 3.08 g of the title compound; m.p.=180°-181° C. Another 1.37 g of the desired product was also isolated from the mother liquor making the total combined yield of the title compound over 97%.

reactant | ethyl 2-cyano-3,3-bis(4-fluorophenyl)-2-propenoate | 16 mmol, 5.0 g | C(#N)C(C(=O)OCC)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H13F2NO2
reactant | lithium hydroxide | 1 M | [OH-].[Li+]
reactant | HCl | 3 M, 15 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Cyano-3,3-bis(4-fluorophenyl)-2-propenoic acid | 3.08 g | C(#N)C(C(=O)O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H9F2NO2
